### PR TITLE
Implementation of properties

### PR DESCRIPTION
**Pull request by math-fehr**
Implementation of operation properties.
Properties are defined as an operation family indexed by opcodes.
`getProperties`, `setProperties`, and `setProperties!` directly take `OpCode` as an input to query or set the properties of an operation.

This implements parsing of properties, but not yet printing.

### CODE REVIEW

File: Veir/Rewriter/LinkedList/GetSet.lean [hunk 1]
```diff
@@ -340,6 +340,8 @@ theorem OperationPtr.getProperties!_OpOperandPtr_insertIntoCurrent {operation :
     operation.getProperties! ctx propT (by grind) := by
   unfold OpOperandPtr.insertIntoCurrent
   simp only
+  rw [getProperties!_eq_getPropertiesFromOpType!]
+  rw [getProperties!_eq_getPropertiesFromOpType!]
```
Comment (ineol) [inline Veir/Rewriter/LinkedList/GetSet.lean]: I pushed a commit that makes both rewrites work. The issue somehow is that Lean did not unfold `insertIntoCurrent` to look for the LHS of the rewrite.

File: Veir/IR/GetSet.lean [hunk 2]
```diff
@@ -1223,145 +1230,157 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushResult {opOperandPtr : OpOperandPt
...
-    blockOperandPtr.get! (OperationPtr.setProperties operation' ctx newProperties hop') =
+    blockOperandPtr.get! (OperationPtr.setProperties operation' ctx newProperties inBounds hprop) =
     blockOperandPtr.get! ctx := by
   grind
 
 @[simp, grind =]
-theorem BlockPtr.getNumArguments!_OperationPtr_setProperties {block : BlockPtr} {hop} :
-    block.getNumArguments! (OperationPtr.setProperties op ctx newProperties hop) =
+theorem BlockPtr.getNumArguments!_OperationPtr_setProperties {block : BlockPtr} :
+    block.getNumArguments! (OperationPtr.setProperties operation' ctx newProperties inBounds hprop) =
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:1356]: why `operation'`?

File: Veir/Parser/MlirParser.lean [hunk 3]
```diff
@@ -316,7 +321,11 @@ partial def parseOptionalOp (ip : Option InsertPoint) : MlirParserM (Option Oper
   let some opName ← parseOptionalStringLiteral | return none
   let operands ← parseOperands
   let blockOperands ← parseBlockOperands
-  parseOpProperties
+
+  /- Get the operation opCode. -/
```
Comment (luisacicolini) [inline Veir/Parser/MlirParser.lean]:
```suggestion
  /- Get the operation `opCode`. -/
```

**Comment by math-fehr** [comment]
I'll just wait for the +1 from Leo, and then we can merge it (feel free to merge it Leo if you approve it without comments)

File: Veir/IR/Basic.lean [hunk 4]
```diff
@@ -575,18 +576,44 @@ theorem pushOperand!_eq_pushOperand {op : OperationPtr} (inBounds: op.InBounds c
...
+@[grind _=_]
+theorem getProperties!_eq_getProperties {op : OperationPtr} (inBounds: op.InBounds ctx)
+    (hprop : (op.get! ctx).opType = opCode) :
+    op.getProperties! ctx opCode = op.getProperties ctx opCode inBounds (by grind) := by
+  grind [getProperties, getProperties!]
+
+def setProperties (op : OperationPtr) (ctx : IRContext)
+    (newProperties : propertiesOf opCode)
+    (inBounds: op.InBounds ctx := by grind)
+    (propEq : (op.get ctx inBounds).opType = opCode := by grind) : IRContext :=
```
Comment (ineol) [inline Veir/IR/Basic.lean]: why `propEq` here and `hprop` for the others?

Comment (ineol) [reply Veir/IR/Basic.lean]: also, it's weird that we have `opType` and `opCode`. Should we eventually use a single name for this?

File: Veir/IR/GetSet.lean [hunk 5]
```diff
@@ -1223,145 +1230,157 @@ theorem OpOperandPtrPtr.get!_OperationPtr_pushResult {opOperandPtr : OpOperandPt
...
-    operation.get! (OperationPtr.setProperties operation' ctx newProperties hop') =
+    operation.get! (OperationPtr.setProperties operation' ctx newProperties inBounds hprop) =
     if operation = operation' then
-      { operation.get! ctx with properties := newProperties }
+      { operation.get! ctx with opType := (operation'.get! ctx).opType, properties := newProperties }
     else
       operation.get! ctx := by
   grind
 
+@[grind =]
```
Comment (ineol) [inline Veir/IR/GetSet.lean:1246]: Should we add a note that maybe having both lemmas as grind is not a good idea long term?

File: Veir/Parser/MlirParser.lean [hunk 6]
```diff
@@ -251,13 +251,18 @@ def parseTypedValue : MlirParserM (ByteArray × TypeAttr) := do
   Currently, these properties are not stored in the IR, but we still need to parse them to be able
   to parse valid MLIR syntax.
 -/
-def parseOpProperties : MlirParserM Unit := do
+def parseOpProperties (opCode : OpCode) : MlirParserM (propertiesOf opCode) := do
   if not (← parseOptionalPunctuation "<") then
-    return ()
+    match Properties.fromAttrDict opCode {} with
```
Comment (ineol) [inline Veir/Parser/MlirParser.lean:256]: You can use `return \l Properties.fromAttrDict opCode {}` I think?

File: Veir/Parser/MlirParser.lean [hunk 7]
```diff
@@ -251,13 +251,18 @@ def parseTypedValue : MlirParserM (ByteArray × TypeAttr) := do
...
+    | .ok properties => return properties
+    | .error err => throw err
   match AttrParser.parseAttributeDictionary.run AttrParserState.mk (← getThe ParserState) with
   | .ok (properties, _, parserState) =>
     set parserState
     parsePunctuation ">"
+    match Properties.fromAttrDict opCode properties with
```
Comment (ineol) [inline Veir/Parser/MlirParser.lean:263]: same here

File: Veir/Parser/MlirParser.lean (hunk 6 above)
Comment (math-fehr) [reply Veir/Parser/MlirParser.lean:256]: Cannot directly, because `\l` will not go from an `Except String T` to a `MlirParserM`, not sure why it doesn't lift it
